US09029538B2
4-Chloro-6,7-dimethoxyquinoline (0.50 g, 2.24 mmol), N-methyl(4-nitrophenyl)amine; (0.564 g, 3.35 mmol) and p-toluenesulfonic acid (0.192 g, 1.12 mmol) in 1-methoxy-2-propanol (6.56 mL, 67.1 mmol) were heated to 120° C. for 8 h. The reaction was cooled to rt, triturated with ether and filtered to yield (6,7-dimethoxyquinolin-4-yl)methyl(4-nitrophenyl)amine (0.40 g, 40%). LCMS m/z=340 (M+1); 1H NMR (CDCl3) δ: 8.80 (d, 1H, J=4.8 Hz), 8.10 (d, 2H, J=9.4 Hz), 7.5 (brs, 1H), 7.16 (d, 1H, J=4.8), 6.84 (s, 1H), 6.64 (d, 2H, J=9.4 Hz), 4.05 (s, 3H), 3.81 (s, 3H), 3.52 (s, 3H).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 2.24 mmol, 0.50 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | N-methyl(4-nitrophenyl)amine | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | p-toluenesulfonic acid | 1.12 mmol, 0.192 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-methoxy-2-propanol | 67.1 mmol, 6.56 mL | COCC(C)O | C4H10O2
product | (6,7-dimethoxyquinolin-4-yl)methyl(4-nitrophenyl)amine | 0.40 g, 40% | COC=1C=C2C(=CC=NC2=CC1OC)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C18H17N3O4
